US09193693B2
Step 5. 3-(4-(N-Methylacetamido)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid
Into a 100-mL round-bottom flask, was placed a solution of methyl 3-(4-(N-methylacetamido)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate (77 mg, 0.18 mmol, 1.00 equiv) in MeOH (15 mL). Then dichloromethane (5 mL) was added. Finally to the above was added a solution of sodium hydroxide (700 mg, 17.50 mmol, 95.00 equiv) in water (3 mL). The resulting solution was stirred for 3 hr at room temperature. The resulting mixture was concentrated under vacuum, diluted with 10 ml of H2O. The pH value of the aqueous solution was adjusted to 3 with aq. 3N hydrochloric acid. The resulting solids were collected by filtration. This resulted in 52 mg (70%) of 3-(4-(N-methylacetamido)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-(N-methylacetamido)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.18 mmol, 77 mg, 1.00 equiv | CN(C(C)=O)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C24H26N4O3
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | sodium hydroxide | 17.50 mmol, 700 mg, 95.00 equiv | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 3-(4-(N-Methylacetamido)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | CN(C(C)=O)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C23H24N4O3
